US08071593B2
Preparation of methyl 3-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]-benzyl}-2-oxo-2,3-dihydrobenzoxazole-5-carboxylate
1.84 g (9.5 mmol) of methyl 2-oxo-2,3-dihydrobenzoxazole-5-carboxylate and 4.75 g (14.25 mmol) of polymer-bound triphenylphosphine (3 mmol/g) are added to a solution of 3.03 g (10.45 mmol) of {3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}methanol in 40 ml of THF. The suspension is shaken at room temperature for 30 min. The suspension is cooled in an ice bath, and 3.35 g (14.25 mmol) of di-tert-butyl-azodicarboxylate are added in portions. After the mixture has been stirred at room temperature for 24 h, a further 4.75 g (14.25 mmol) of polymer-bound triphenylphosphine (3 mmol/g) and 3.35 g (14.25 mmol) of di-tert-butyl azodicarboxylate are added, and the mixture is shaken at room temperature for a further 24 h. The reaction mixture is filtered, the filtrate is evaporated to dryness, and the residue is purified by column chromatography on silica gel, giving 947 mg of “A64”; m.p. 125° C., ESI: 463 (M+H); Rt=3.07 min (method C);

reactant | methyl 2-oxo-2,3-dihydrobenzoxazole-5-carboxylate | 9.5 mmol, 1.84 g | O=C1OC2=C(N1)C=C(C=C2)C(=O)OC | C9H7NO4
reactant | triphenylphosphine | 14.25 mmol, 4.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | {3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]phenyl}methanol | 10.45 mmol, 3.03 g | CN(CCCOC=1C=NC(=NC1)C=1C=C(C=CC1)CO)C | C16H21N3O2
reactant | di-tert-butyl-azodicarboxylate | 14.25 mmol, 3.35 g | C(C)(C)(C)OC(=O)N=NC(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 14.25 mmol, 4.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 14.25 mmol, 3.35 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | methyl 3-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]-benzyl}-2-oxo-2,3-dihydrobenzoxazole-5-carboxylate | CN(CCCOC=1C=NC(=NC1)C=1C=C(CN2C(OC3=C2C=C(C=C3)C(=O)OC)=O)C=CC1)C | C25H26N4O5
